US08314097B2
The crude residue, 4-[5-(2-hydroxyethyl)imidazol-1-ylmethyl]-3-nitrobenzonitrile, is then taken up in CH2Cl2 (10 mL), cooled to 0° C., and treated with Et3N (0.58 mL, 4.19 mmol). To this solution is added methanesulfonyl chloride (0.13 mL, 1.68 mmol). After 0.5 h the solution is diluted with CH2Cl2 (10 mL) and saturated aqueous NaHCO3 (20 mL). The organic layer is further extracted with CH2Cl2 (3×20 mL) and the combined layers are dried (Na2SO4) and concentrated to give crude methanesulfonic acid 2-[3-(4-cyano-2-nitrobenzyl)-3H-imidazol-4-yl]ethyl ester. A suspension of the methanesulfonic acid 2-[3-(4-cyano-2-nitrobenzyl)-3H-imidazol-4-yl]-ethyl ester residue, DMF (17 mL), sodium iodide (0.630 g, 4.19 mmol), Et3N (0.58 mL, 4.19 mmol), and potassium carbonate (0.580 g, 4.19 mmol) is heated to 60° C. for 1 hour and then 75° C. for an additional 2 h. At that point the suspension is concentrated and diluted with CH2Cl2 (20 mL) and saturated aqueous NaHCO3 (20 mL). The organic layer is further extracted with CH2Cl2 (3×20 mL) and the combined layers are dried (Na2SO4). The residue is then purified via HPLC (reversed phase, CH3CN/H2O) to give 4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-nitrobenzonitrile as a solid. MS (ESI) m/z 254.9 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 2.48-2.57 (m, 1 H), 2.81-2.92 (m, 1 H), 2.92-3.01 (m, 1 H), 3.35-3.47 (m, 1 H), 6.03 (dd, J=8.6, 3.5 Hz, 1 H), 6.80 (d, J=8.3 Hz, 1 H), 6.89 (s, 1 H), 7.36 (s, 1 H), 7.81 (dd, J=7.8, 1.8 Hz, 1 H), 8.41 (d, J=1.8 Hz, 1 H).

reactant | methanesulfonic acid 2-[3-(4-cyano-2-nitrobenzyl)-3H-imidazol-4-yl]-ethyl ester | C(#N)C1=CC(=C(CN2C=NC=C2CCOS(=O)(=O)C)C=C1)[N+](=O)[O-] | C14H14N4O5S
reactant | sodium iodide | 4.19 mmol, 0.630 g | [I-].[Na+]
reactant | Et3N | 4.19 mmol, 0.58 mL | CCN(CC)CC | C6H15N
reactant | potassium carbonate | 4.19 mmol, 0.580 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-nitrobenzonitrile | C1=C2N(C=N1)C(CC2)C2=C(C=C(C#N)C=C2)[N+](=O)[O-] | C13H10N4O2
